US09126957B2
Step 1 tert-Butyl((1S,2R,3R,4R,6S)-2,3-bis(benzyloxy)-4-((benzyloxy)methyl)-6-hydroxycyclohexyl)carbamate
A mixture of (1S,2S,3R,4R,5R)-2-amino-3,4-bis(benzyloxy)-5-((benzyloxy)methyl)cyclohexanol (2.60 g, 5.80 mmol) and di-tert-butyl dicarbonate (2.60 g, 120 mmol) in DCM (50 mL) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and the residue was purified on silica gel by automatic flash column chromatography (EtOAc/hexanes, 1:10 to 2:3), affording the title compound as a white solid (3.20 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.33-7.25 (m, 15H), 4.86-4.81 (m, 3H), 4.66 (d, J=11.3 Hz, 1H), 4.55 (d, J=10.5 Hz, 1H), 4.45 (s, 2H), 4.14 (s, broad, 1H), 3.69-3.66 (m, 2H), 3.57-3.52 (m, 2H), 3.48-3.46 (m, 1H), 2.20-2.15 (m, 2H), 1.89-1.84 (m, 1H), 1.72-1.68 (m, 1H), 1.43 (s, 9H).

reactant | (1S,2S,3R,4R,5R)-2-amino-3,4-bis(benzyloxy)-5-((benzyloxy)methyl)cyclohexanol | 5.80 mmol, 2.60 g | N[C@H]1[C@H](C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)O | C28H33NO4
reactant | di-tert-butyl dicarbonate | 120 mmol, 2.60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl((1S,2R,3R,4R,6S)-2,3-bis(benzyloxy)-4-((benzyloxy)methyl)-6-hydroxycyclohexyl)carbamate | 3.20 g, 100% | C(C)(C)(C)OC(N[C@@H]1[C@H]([C@@H]([C@H](C[C@@H]1O)COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C33H41NO6
